US09260427B2
To a stirring mixture of 4-(heptyloxy)benzothioamide (1.30 g, 5.17 mmol) in isopropanol (20 mL) was added 2-bromo-1-(4-bromophenyl)ethanone (1.44 g, 5.17 mmol). The precipitate was collected by filtration and washed with EtOH (2×5 mL). The filter cake was slurried with NaHCO3 (2×20 mL), water (2×20 mL) then EtOH (2×5 mL) and dried to afford 926 mg (41%) of 4-(4-bromophenyl)-2-(4-(heptyloxy)phenyl)thiazole as a pale yellow powder. LCMS-ESI (m/z) calculated for C22H24BrNOS: 429.1. found 430.0 [M+H]+, tR=3.41 min. (Method 4).

reactant | 4-(heptyloxy)benzothioamide | 5.17 mmol, 1.30 g | C(CCCCCC)OC1=CC=C(C(N)=S)C=C1 | C14H21NOS
reactant | 2-bromo-1-(4-bromophenyl)ethanone | 5.17 mmol, 1.44 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 4-(4-bromophenyl)-2-(4-(heptyloxy)phenyl)thiazole | 926 mg, 41% | BrC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C=C1)OCCCCCCC | C22H24BrNOS
